reaction_geognn/datasets/wb97xd3/splits/fold_0/aam_train.csv
AAM,ea
[C:5]=[N:6][H:8].[N:1](=[C:2]1[C:3]([H:9])([H:10])[C:4]1([H:11])[H:12])[H:7]>>[N:1]([C:2]1([C:5]#[N:6])[C:3]([H:9])([H:10])[C:4]1([H:11])[H:12])([H:7])[H:8],28.241840048102993
[C:1]([C@@:2]([O:3][H:10])([C:4]#[N:5])[H:9])([H:6])([H:7])[H:8]>>[C:1]([C:2]([O:3][H:10])=[C:4]=[N:5][H:9])([H:6])([H:7])[H:8],86.7425087402318
[C:1]([N:2]([C:3](=[O:4])[C:5]([C:6]([H:13])([H:14])[H:15])([C:7]([H:16])([H:17])[H:18])[H:12])[H:11])([H:8])([H:9])[H:10]>>[C:1](/[N:2]=[C:3]1\[O:4][C@@:5]1([C:7]([H:16])([H:17])[H:18])[H:12])([H:8])([H:9])[H:10].[C:6]([H:11])([H:13])([H:14])[H:15],95.9923624121118
[C:1]([O:2][C:3]([C:4]([C:5](=[O:6])[H:14])([H:12])[H:13])([H:10])[H:11])([H:7])([H:8])[H:9]>>[C:1]([O:2][C@:3]([C:4]([H:11])([H:12])[H:13])([C:5](=[O:6])[H:14])[H:10])([H:7])([H:8])[H:9],91.28734635134373
[C:1]1([H:6])([H:7])[C:2]([H:8])([H:9])[C:3]([H:10])([H:11])[C:4][C:5]1([H:12])[H:13]>>[C:1]1([H:6])([H:7])[C:2]([H:8])([H:9])[C:3]([H:10])=[C:4]([H:11])[C:5]1([H:12])[H:13],4.147790482147705
[N:1]([C:2](=[O:3])[C:4]([C:5](=[O:6])[H:11])([H:9])[H:10])([H:7])[H:8]>>[N:1]([C@@:2]1([O+:6]=[C-:5][H:11])[O:3][C:4]1([H:9])[H:10])([H:7])[H:8],127.41290086768299
[C:1]([C:2]([O:3][C:4](=[O:5])[N:6]([H:12])[H:13])([H:10])[H:11])([H:7])([H:8])[H:9]>>[C:1]([C:2](=[O:3])[H:11])([H:7])([H:8])[H:9].[C:4](=[O:5])([N:6]([H:12])[H:13])[H:10],87.8406403094653
[N:1]12[C:2]([H:7])([H:8])[O:3][C:4]([H:9])([H:10])[C@@:5]1([H:11])[O:6]2>>[N:1](=[C:2](/[O:3][C:4]([C:5](=[O:6])[H:11])([H:9])[H:10])[H:8])\[H:7],39.1192867580399
[O:1]([C:2]([C:3](=[O:4])[H:9])([C:5](=[O:6])[H:10])[H:8])[H:7]>>[O:1]([O:6]/[C:5](=[C:2](\[C:3](=[O:4])[H:9])[H:8])[H:10])[H:7],120.627330946525
[C:1](=[C:2]([C+:3]=[C:4]([O-:5])[H:9])[H:7])([H:6])[H:8]>>[C:1]([C:2]#[C:3][C:4](=[O:5])[H:9])([H:6])([H:7])[H:8],22.9273337293929
[C:1]([C@@:2]([O:3][H:12])([C:4]([N:5]([C:6](=[O:7])[H:16])[H:15])([H:13])[H:14])[H:11])([H:8])([H:9])[H:10]>>[C:1]([C:2]([O:3][H:12])=[C:4]([H:13])[H:14])([H:8])([H:9])[H:10].[N:5](=[C:6](/[O:7][H:11])[H:16])\[H:15],67.0264170183809
[C:1]([C:3]([C:2](=[O:4])[H:10])([H:11])[H:13])([H:7])([H:8])[H:9].[C:5](=[O:6])([H:12])[H:14]>>[C:1]([C:2]([C:3]([H:11])([H:12])[H:13])([O:4][C:5](=[O:6])[H:14])[H:10])([H:7])([H:8])[H:9],89.0071599905654
[N:1]([C:4]([C:2](=[O:3])[O:7][C:6](=[O:5])[H:12])([H:10])[H:11])([H:8])[H:9]>>[N:1]([C:2](=[O:3])[C:4]([O:5][C:6](=[O:7])[H:12])([H:10])[H:11])([H:8])[H:9],68.06395746328631
[O:1]([C:2]([C:3](=[O:4])[H:9])([C:5](=[O:6])[H:10])[H:8])[H:7]>>[O:1](/[C:2](=[C:3](/[O:4][H:8])[H:9])[C:5](=[O:6])[H:10])[H:7],55.5549214390129
[C:1]([C@@:2]([O+:4]=[C-:3][H:12])([C:5](=[O:6])[N:7]([H:13])[H:14])[H:11])([H:8])([H:9])[H:10]>>[C:1]([C@@:2]([C:3](=[O:4])[H:12])([C:5](=[O:6])[N:7]([H:13])[H:14])[H:11])([H:8])([H:9])[H:10],51.1907891381487
[C:2]([C:3](=[O:4])[C:5](=[O:6])[H:12])([H:8])([H:9])[H:10].[O:1]([H:7])[H:11]>>[O:1]([C:2]([C@@:3]([O:4][H:11])([C:5](=[O:6])[H:12])[H:10])([H:8])[H:9])[H:7],76.8625773540946
[C:1]([N:2]([C:3](=[O:4])[O:5][C:6]([H:11])([H:12])[H:13])[H:10])([H:7])([H:8])[H:9]>>[C:1]([N:2]([C:3](=[O:4])[H:13])[H:10])([H:7])([H:8])[H:9].[O:5]=[C:6]([H:11])[H:12],91.1865145238625
[C:1]([C:2]([C@@:3]([C:4]([H:13])([H:14])[H:15])([C-:6]=[N+:7]=[C:5]([H:16])[H:17])[H:18])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:1]([C:2]([C:3]([C:4]([H:13])([H:14])[H:15])([C:5]([H:16])([H:17])[H:18])[C:6]#[N:7])([H:11])[H:12])([H:8])([H:9])[H:10],55.786753177659115
[N+:1]([C-:2]([C:3]#[C:4][H:10])[C:5]#[N:6])([H:7])([H:8])[H:9]>>[N:1]([C@@:2]([C:3]#[C:4][H:10])([C:5]#[N:6])[H:9])([H:7])[H:8],26.9171319576064
[C:1]([C:2]([C:3]([C:4]([C:5]([H:16])([H:17])[H:18])([H:14])[H:15])([C:6](=[O:7])[H:19])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:1]([C:2]([C:3]([C:4]([C:5]([H:16])([H:17])[H:18])([H:14])[H:15])=[C:6]([O:7][H:13])[H:19])([H:11])[H:12])([H:8])([H:9])[H:10],72.3721090821763
[C:1]([O:2][C:3]([C:4]#[N:5])([H:9])[H:10])([H:6])([H:7])[H:8]>>[C:1]([O:2][C:4]1=[N:5][C:3]1([H:9])[H:10])([H:6])([H:7])[H:8],96.9305662152665
[O:1]([C:2]([C:3]#[C:4][C:5]([O:6][H:12])([H:10])[H:11])([H:8])[H:9])[H:7]>>[O:1]1[C:2]([H:8])([H:9])[C:3]1=[C:4]=[C:5]([H:10])[H:11].[O:6]([H:7])[H:12],66.7755771003121
[C:1]([O:2][C@@:3]([C:4]([H:11])([H:12])[H:13])([C:5]#[C:6][H:14])[H:10])([H:7])([H:8])[H:9]>>[C:1]([O:2][C:6](=[C:5]=[C:3]([C:4]([H:11])([H:12])[H:13])[H:10])[H:14])([H:7])([H:8])[H:9],64.4959705862807
[O:1]=[C:2]([C:3](=[O:4])[C:5](=[O:6])[H:8])[H:7]>>[O+:1](=[C-:2][H:7])[C@@:5]1([H:8])[C:3](=[O:4])[O:6]1,83.35652298704059
[N:1]([C:2]1=[C:3]([H:10])[C:4]([N:5]([H:11])[H:12])=[C-:6][N+:7]1([H:13])[H:14])([H:8])[H:9]>>[N:1]([c:2]1[c:3]([H:10])[c:4]([N:5]([H:11])[H:12])[c:6]([H:13])[n:7]1[H:14])([H:8])[H:9],9.024472070519792
[C:1](/[C:2]([O:3][H:10])=[C:4](\[C:5]#[N:6])[H:11])([H:7])([H:8])[H:9]>>[C:1]([C:2](=[O:3])[C:4]([C:5]#[N:6])([H:10])[H:11])([H:7])([H:8])[H:9],50.39086380047646
[C:1]([C:2]#[C:3][C:4]([C:6](=[C:5])[H:12])([H:10])[H:11])([H:7])([H:8])[H:9]>>[C:1]([C:2]#[C:3][C:4]([C:5]#[C:6][H:12])([H:10])[H:11])([H:7])([H:8])[H:9],15.5901573972317
